US04052514
Hydroxylamine sulphate (3.02 g.) was added to an aqueous solution of sodium acetate [prepared from glacial acetic acid (2.4 ml.), 18N aqueous sodium hydroxide (2.34 ml.) and water (23 ml.)]. 2-(2,2',4'-Trifluoro-4-biphenylyl)propionaldehyde (8.26 g.) in ethanol (23 ml.) was added and the mixture was stirred at room temperature for 2.5 hours and then at 90° C. for 1 minute. After cooling, the precipitated oxime was suspended in water containing nickel sulphate (0.2 g.) and heated to reflux to obtain an aqueous suspension of 2-(2,2',4'-trifluoro-4-biphenylyl)propionamide. Aqueous sodium hydroxide (18N, 6.75 ml.) was then added and refluxing continued for 24 hours. The resulting solution was cooled to 40° C., acidified with concentrated hydrochloric acid, and the product isolated in ether. After some purification by a conventional back-extraction technique with aqueous potassium carbonate, the final ether extract was evaporated to dryness. This crude acid in methylene chloride was chromatographed on a column of a synthetic magnesia/silica gel adsorbent. Evaporation of the eluate and recrystallisation of the residue from petroleum ether (b.p. 80°-100° C.) gave 2-(2,2',4'-trifluoro-4-biphenylyl)propionic acid, m.p. 105°-108° C.

reactant | Hydroxylamine sulphate | 3.02 g | S(=O)(=O)(O)O.NO
reactant | sodium acetate | 18N, 2.4 ml | C(C)(=O)[O-].[Na+]
reactant | 2-(2,2',4'-Trifluoro-4-biphenylyl)propionaldehyde | 8.26 g | FC1=C(C=CC(=C1)C(C=O)C)C1=C(C=C(C=C1)F)F | C15H11F3O
reactant | 2-(2,2',4'-trifluoro-4-biphenylyl)propionamide | FC1=C(C=CC(=C1)C(C(=O)N)C)C1=C(C=C(C=C1)F)F | C15H12F3NO
reactant | sodium hydroxide | 18N, 6.75 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 23 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | nickel sulphate | 0.2 g | S(=O)(=O)([O-])[O-].[Ni+2]
product | 2-(2,2',4'-trifluoro-4-biphenylyl)propionic acid | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=C(C=C(C=C1)F)F | C15H11F3O2
